US04592866
4-Ethyl-1-methyl-2-(2-morpholinoethyl)-1,2,3,4-tetrahydro-5H-1,4-benzodiazepin-5-one
A solution of 30 g (0.112 mole) of 2-(2-chloroethyl)-4-ethyl-1-methyl-1,2,3,4-tetrahydro-5H-1,4-benzodiazepin-5-one in 70 ml of morpholine was refluxed for 3 hrs, concentrated on the rotary evaporator and the residue partitioned between chloroform and dilute sodium hydroxide. The chloroform was dried over anhydrous sodium sulfate and concentrated on the rotary evaporator. The residue was crystallized twice from isopropyl ether containing a small amount of ethanol, m.p. 128°-148° C. Recrystallization from toluene gave 19.5 g (61%) of product, m.p. 128°-148° C.

reactant | 2-(2-chloroethyl)-4-ethyl-1-methyl-1,2,3,4-tetrahydro-5H-1,4-benzodiazepin-5-one | 0.112 mole, 30 g | ClCCC1N(C2=C(C(N(C1)CC)=O)C=CC=C2)C | C14H19ClN2O
reactant | morpholine | 70 ml | N1CCOCC1 | C4H9NO
product | 4-Ethyl-1-methyl-2-(2-morpholinoethyl)-1,2,3,4-tetrahydro-5H-1,4-benzodiazepin-5-one | 19.5 g, 61% | C(C)N1CC(N(C2=C(C1=O)C=CC=C2)C)CCN2CCOCC2 | C18H27N3O2
